US05750510
3-Hydroxypyridine(2.83 g, 29.83 mmol) was dissolved in DMF (70 mL), the solution was cooled in an ice bath, NaH (1.3 g, 32.81 mmol) and N-(3-bromopropyl)phthalimide (8 g, 29.83 mmol, Aldrich) were added, the ice bath was removed, and the reaction mixture was stirred for 64 hours. The reaction was diluted with CH2Cl2 and filtered through celite to give a 1:1 mixture of N- and O-alkylated products. Recrystallization from EtOH afforded a 4:1 mixture of N- and O-alkylated products. The mother liquor was taken up in water and extracted with CH2Cl2, then the organic layer washed with water (5x) to afford the desired N-(3-(3-pyridyloxy)propyl)phthalimide (8.6 g).

reactant | 3-Hydroxypyridine | 29.83 mmol, 2.83 g | OC=1C=NC=CC1 | C5H5NO
reactant | NaH | 32.81 mmol, 1.3 g | [H-].[Na+]
reactant | N-(3-bromopropyl)phthalimide | 29.83 mmol, 8 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(3-(3-pyridyloxy)propyl)phthalimide | 8.6 g | N1=CC(=CC=C1)OCCCN1C(C=2C(C1=O)=CC=CC2)=O | C16H14N2O3
